US07531532B2
3-(6-{2-Fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyrimidin-4-yl)-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea
To a solution of 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea (68.0 mg) in ethanol (2.0 ml) was added (1S)-(+)-10-camphorsulfonic acid (70.2 mg), followed by stirring at room temperature for 10 min. A solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (0.25 M, 1.91 ml) was added to the reaction mixture, followed by stirring at room temperature for 30 min. The reaction mixture was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=25:1). Fractions containing the target compound were concentrated to give a residue, to which were added diethyl ether (2 ml) and hexane (2 ml) to give a precipitate. The precipitate was filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (10.9 mg, 11.0%) as white powder.

reactant | 3-[6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea | 68.0 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C2CN(C2)C)C)=O)C=C1)F | C21H28FN7O2
reactant | (1S)-(+)-10-camphorsulfonic acid | 70.2 mg | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
solvent | toluene | 0.25 M, 1.91 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | 2 ml | CCCCCC | C6H14
product | 3-(6-{2-Fluoro-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyrimidin-4-yl)-1-methyl-1-[1-(1-methylazetidin-3-yl)piperidin-4-yl]urea | 10.9 mg, 11.0% | FC1=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C2CN(C2)C)C)=O)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C30H34F2N8O3S
